US07595405B2
A solution of LiOH hydrate (82 mg, 1.94 mmol) in H2O (7 mL) was added dropwise to a suspension of 3-(5-methyl-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid methyl ester (440 mg, 1.49 mmol) in THF (4 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and was stirred until the reaction solution turned into clear. Solvent was removed under vacuum and the resulting aqueous solution was acidified by 10% HCl to pH=6˜7. The resulting precipitate was collected and dried to afford 3-(5-Methyl-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid as a yellow solid (390 mg, 93%). MS (M+H)=282.

reactant | LiOH hydrate | 1.94 mmol, 82 mg | O[Li].O
reactant | 3-(5-methyl-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid methyl ester | 1.49 mmol, 440 mg | COC(C1=CC(=CC(=C1)N1N=NN=C1)C1=NC=C(C=C1)C)=O | C15H13N5O2
solvent | H2O | 7 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-(5-Methyl-pyridin-2-yl)-5-tetrazol-1-yl-benzoic acid | 390 mg, 93% | CC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)N1N=NN=C1 | C14H11N5O2
